US03985896
Alternatively, 3-methoxy-7-oxo-7H-benzo[b]-phenaleno[2,1-d]furan was prepared by addition of 0.38 ml. (45 mmol.) of oxalyl chloride followed by 1.2 ml. (0.01 mol.) of stannic chloride to a solution of 1 g. (37 mmol.) of 2-(4-methoxynaphthyl)benzofuran in 100 ml. of methylene chloride at 0°. The reaction mixture was stirred for 1.5 hours at 0° then poured into water. The layers were separated and the organic phase was washed with 10% aqueous sodium carbonate, dried (MgSO4) and evaporated to dryness. The residue was chromatographed on silica with chloroform as eluant to give the product.

reactant | oxalyl chloride | 45 mmol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(4-methoxynaphthyl)benzofuran | 37 mmol | COC1=CC=C(C2=CC=CC=C12)C=1OC2=C(C1)C=CC=C2 | C19H14O2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3-methoxy-7-oxo-7H-benzo[b]-phenaleno[2,1-d]furan | COC1=C2C=CC=C3C(C=4C5=C(OC4C(C=C1)=C32)C=CC=C5)=O | C20H12O3
